US08119666B2
To a suspension of K2CO3 (0.654 g, 4.74 mmol) in DMF (6 mL) is added 2-benzyloxy-4-fluoro-1-nitrobenzene (0.90 g, 3.64 mmol), followed by phenol (0.343 g, 3.64 mmol). The mixture is stirred at 100° C. for 48 h. The mixture is allowed to cool to ambient temperature, then poured into water and extracted into EtOAc. The organic phase is washed with water (2×), saturated NaCl (1×), and dried over Na2SO4. The solvent is removed under reduced pressure to afford 2-benzyloxy-4-phenoxy-1-nitrobenzene as a pale-yellow solid: mp=96-98° C.; 1H NMR (CDCl3) δ 7.87 (d, J=9.09 Hz, 1H), 7.36-7.23 (m, 7H), 7.20-7.15 (m, 1H), 6.95 (dd, J=8.59, 1.01 Hz, 1H), 6.58 (d, J=2.27 Hz, 1H), 6.46-6.43 (m, 1H), 5.08 (s, 2H).

reactant | K2CO3 | 4.74 mmol, 0.654 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-benzyloxy-4-fluoro-1-nitrobenzene | 3.64 mmol, 0.90 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C13H10FNO3
reactant | phenol | 3.64 mmol, 0.343 g | C1(=CC=CC=C1)O | C6H6O
reactant | water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-benzyloxy-4-phenoxy-1-nitrobenzene | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C19H15NO4
